US07507740B2
(ii) Production of 4-((3E)-5-{[tert-butyl(dimethyl)silyl]oxy}-3-penten-1-ynyl)-6-phenoxypyrimidin-5-amine
4-Iodo-6-phenoxypyrimidin-5-amine (1.0 g) was dissolved in a mixed solvent of acetonitrile (53 mL)/triethylamine (39 mL), and tert-butyl(dimethyl)[(2E)-2-penten-4-ynyloxy]silane (753 mg), trans-dichlorobis(triphenylphosphine)palladium(II) (112 mg) and copper(I) iodide (36.5 mg) were sequentially added. The title compound (1.07 g) was obtained as crystals by the reaction in the same manner as in Example 9 (iv).

reactant | 4-Iodo-6-phenoxypyrimidin-5-amine | 1.0 g | IC1=NC=NC(=C1N)OC1=CC=CC=C1 | C10H8IN3O
reactant | tert-butyl(dimethyl)[(2E)-2-penten-4-ynyloxy]silane | 753 mg | C(C)(C)(C)[Si](OC\C=C\C#C)(C)C | C11H20OSi
solvent | acetonitrile | 53 mL | C(C)#N | C2H3N
solvent | triethylamine | 39 mL | C(C)N(CC)CC | C6H15N
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 112 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 36.5 mg | [Cu]I
product | 4-((3E)-5-{[tert-butyl(dimethyl)silyl]oxy}-3-penten-1-ynyl)-6-phenoxypyrimidin-5-amine | 1.07 g | [Si](C)(C)(C(C)(C)C)OC/C=C/C#CC1=NC=NC(=C1N)OC1=CC=CC=C1 | C21H27N3O2Si
